US05594023
3-Amino-5-chloro-3-(2-chlorophenyl)-1,3-di-hydro-1-(2,4-dimethoxybenzenesulfonyl)indol-2-one
This compound is prepared according to the procedure described in EXAMPLE 1 from 0.315 g of 3-amino-5-chloro-3-(2-chlorophenyl)-1,3-dihydroindol-2-one and 0.256 g of 2,4-dimethoxybenzenesulfonyl chloride. This gives the expected product after crystallization from a DCM/iso ether mixture. m=0.300 g. M.p.=179°-180° C.

reactant | 3-amino-5-chloro-3-(2-chlorophenyl)-1,3-dihydroindol-2-one | 0.315 g | NC1(C(NC2=CC=C(C=C12)Cl)=O)C1=C(C=CC=C1)Cl | C14H10Cl2N2O
reactant | 2,4-dimethoxybenzenesulfonyl chloride | 0.256 g | COC1=C(C=CC(=C1)OC)S(=O)(=O)Cl | C8H9ClO4S
product | 3-Amino-5-chloro-3-(2-chlorophenyl)-1,3-di-hydro-1-(2,4-dimethoxybenzenesulfonyl)indol-2-one | NC1(C(N(C2=CC=C(C=C12)Cl)S(=O)(=O)C1=C(C=C(C=C1)OC)OC)=O)C1=C(C=CC=C1)Cl | C22H18Cl2N2O5S
